US06969749B2
Preparation of 2-(1-bromo-1-methyl ethyl)-4,4-dimethyl-4H-oxazol-5-one
A solution of ethyl chloroformate (32.4 g, 0.30 mol) in 50 mL acetone was added dropwise to a stirring mixture of 2-(2-bromo-2-methyl propionylamino)-2-methylpropionic acid (67.9 g, 0.27 mol) and triethylamine (30.0 g, 0.30 mol) in 200 mL of acetone at −15° C. When addition was complete, the mixture was stirred at room temperature for 2 hours, and the white solid was filtered off and washed with 100 mL of ether. The combined filtrates were reduced in volume to about 200 mL at reduced pressure and cooled in a refrigerator at about 5° C. overnight. The small amount of white solid that had separated was removed by filtration, and the solvents were evaporated at reduced pressure. The residue was taken up in 300 mL of ether, filtered, and the solvent evaporated to leave the title compound (61.5 g, 98%) with IR and NMR spectra consistent with the desired product.

reactant | ethyl chloroformate | 0.30 mol, 32.4 g | ClC(=O)OCC | C3H5ClO2
reactant | 2-(2-bromo-2-methyl propionylamino)-2-methylpropionic acid | 0.27 mol, 67.9 g | BrC(C(=O)NC(C(=O)O)(C)C)(C)C | C8H14BrNO3
reactant | triethylamine | 0.30 mol, 30.0 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 2-(1-bromo-1-methyl ethyl)-4,4-dimethyl-4H-oxazol-5-one | 61.5 g, 98% | BrC(C)(C)C=1OC(C(N1)(C)C)=O | C8H12BrNO2
